US07776857B2
Step 2: Ethyl 7-bromo-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylate
In a RBF fitted with a reflux condenser a mixture of diethyl 2-((5-bromopyridin-3-ylamino)methylene)malonate (1 g, 3 mmol) and 1-phenoxybenzene (10 mL, 63 mmol) was heated to reflux for 1 h. The reaction mixture was allowed to cool to RT and CH3CN was added. The resulting solids were filtered and dried to provide the desired product as a light brown solid.

reactant | diethyl 2-((5-bromopyridin-3-ylamino)methylene)malonate | 3 mmol, 1 g | BrC=1C=C(C=NC1)NC=C(C(=O)OCC)C(=O)OCC | C13H15BrN2O4
reactant | 1-phenoxybenzene | 63 mmol, 10 mL | O(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10O
solvent | CH3CN | CC#N | C2H3N
product | Ethyl 7-bromo-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylate | BrC1=CN=C2C(C(=CNC2=C1)C(=O)OCC)=O | C11H9BrN2O3
